US07488831B2
Synthesis of 4-{[3-(3,5-dinitrophenyl)-5-hydroxy-1-methylpyrazol-4-yl]-methylsulfonyl]toluene
3-(3,5-Dinitrophenyl)-5-hydroxy-1-methylpyrazole (0.65 g (2.5 mmol)) synthesized in Reference Example 4 and 0.15 g (3.8 mmol) of sodium hydroxide were dissolved in 5 mL of ethanol. While stirring the resulting solution at room temperature, 0.5 g (5.5 mmol) of a 35% formalin solution was added dropwise thereto, followed by stirring at the same temperature for 1 hour. Subsequently, 0.45 g (2.5 mmol) of sodium p-toluenesulfinate was charged thereto at room temperature, and the obtained mixture was stirred for 2 hours. After the reaction, 2.5 g (25 mmol) of 35% hydrochloric acid was added dropwise thereto, 15 mL of water was further added, and the precipitated crystal was collected by filtration, washed twice with 10 mL of water and dried by a hot air drier to obtain 0.9 g (yield: 89.3%) of the title compound as a brown crystal.

reactant | 3-(3,5-Dinitrophenyl)-5-hydroxy-1-methylpyrazole | 2.5 mmol, 0.65 g | [N+](=O)([O-])C=1C=C(C=C(C1)[N+](=O)[O-])C1=NN(C(=C1)O)C | C10H8N4O5
reactant | sodium hydroxide | 3.8 mmol, 0.15 g | [OH-].[Na+]
reactant | formalin | C=O | CH2O
reactant | sodium p-toluenesulfinate | 2.5 mmol, 0.45 g | C1(=CC=C(C=C1)S(=O)[O-])C.[Na+]
reactant | hydrochloric acid | 25 mmol, 2.5 g | Cl | ClH
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | water | 15 mL | O | H2O
product | 4-{[3-(3,5-dinitrophenyl)-5-hydroxy-1-methylpyrazol-4-yl]-methylsulfonyl]toluene | 0.9 g, yield: 89.3% | [N+](=O)([O-])C=1C=C(C=C(C1)[N+](=O)[O-])C1=NN(C(=C1CS(=O)(=O)C1=CC=C(C=C1)C)O)C | C18H16N4O7S
